US05229381
To a solution of 13 mL of diisopropylamine in 75 mL of THF at -20° C. was added 35 mL of 2.4M n-butyl lithium in hexane. After 15 minutes the solution was cooled to -70° C. and a solution of 10 gms of (3R,4S)-1-t-butyldimethylsilyl-3-methylazetidin-2-one-4-carboxylic acid in 50 mL of THF was added. The solution was warmed to -20° C. for 15 minutes and a solution of 6.7 mL of ethyl iodide in 10 mL of THF was added. After 30 minutes at -20° to 0° C. the reaction was diluted with ether and poured into a mixture of ice and 1N HCl. The layers were separated and the aqueous layer extracted with ether. The ether layers were each washed with brine, dried over sodium sulfate and evaporated. The residue was crystallized from a minimum amount of hexane to give 8.8 gms of (3R,4S)-1-t-butyldimethylsilyl-3-ethyl-3-methylazetidin-2-one-4-carboxylic acid.

reactant | diisopropylamine | 13 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.4M, 35 mL | C(CCC)[Li]
reactant | (3R,4S)-1-t-butyldimethylsilyl-3-methylazetidin-2-one-4-carboxylic acid | 10 gms | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1C(=O)O)C)=O | C11H21NO3Si
reactant | ethyl iodide | 6.7 mL | C(C)I | C2H5I
reactant | HCl | 1N | Cl | ClH
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (3R,4S)-1-t-butyldimethylsilyl-3-ethyl-3-methylazetidin-2-one-4-carboxylic acid | 8.8 gms | [Si](C)(C)(C(C)(C)C)N1C([C@]([C@H]1C(=O)O)(C)CC)=O | C13H25NO3Si
